US05290960
Following the procedure described in Vaughn, T. H., J. Am. Chemical Soc'y 55 3456 (1933), 4-oxatetradecyne (13 g, 66.2 mmol) was reacted with ethylmagnesium bromide (73 mmol) in dry ether. The resulting alkynyl magnesiumbromide was reacted with iodine and provided 15 g of 1-iodo-4-oxa-tetradecyne as viscous liquid (71% yield). The sample was analyzed with 1H-NMR in CDCl3, and the observed chemical shift peaks were at δ=0.88 (t, 3H, --CH3), 1.23-1.4 (br singlet, 14H, --CH2 --), 1.57 (pentate center, 2H, --CH2 --), 3.51 (t, J=7.0 Hz, 2H, --CH2 --O), and 4.28 (s, 2H, O--CH2 --C≡C). Observed IR (KBr) peak was at 2120 (--C≡C--) cm-1 ; no peak was observed at 3298 (--C≡CH) cm-1.

reactant | 4-oxatetradecyne | 66.2 mmol, 13 g | C#CCOCCCCCCCCCC | C13H24O
reactant | ethylmagnesium bromide | 73 mmol | C(C)[Mg]Br
reactant | iodine | II | I2
solvent | ether | CCOCC | C4H10O
product | 1-iodo-4-oxa-tetradecyne | 15 g, 71% yield | IC#CCOCCCCCCCCCC | C13H23IO
